US08802688B2
Step 1: 1-bromo-2-methoxy-4-methyl-5-nitrobenzene
To a solution of 4-methoxy-2-methyl-1-nitrobenzene (2.0 g, 12 mmol) in N,N-dimethylformamide (5 mL) was added N-bromosuccinimide (8.52 g, 47.9 mmol). The reaction was heated to 100° C. for 1.5 hours. The reaction was cooled to room temperature and diluted with saturated aqueous sodium thiosulfate. The mixture was extracted with ethyl acetate (3×). The combined organics were washed with water, saturated sodium thiosulfate, and brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified via flash column chromatography (0-30% ethyl aceate/heptanes) to provide the title compound (2.6 g, ˜43% pure) as a pale yellow solid. 1H NMR (400 MHz, CDCl3, δ): 8.32 (s, 1 H), 6.74 (s, 1 H), 3.97 (s, 3 H), 2.63 (s, 3 H).

reactant | 4-methoxy-2-methyl-1-nitrobenzene | 12 mmol, 2.0 g | COC1=CC(=C(C=C1)[N+](=O)[O-])C | C8H9NO3
reactant | N-bromosuccinimide | 47.9 mmol, 8.52 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 1-bromo-2-methoxy-4-methyl-5-nitrobenzene | 2.6 g, ~43% | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)OC | C8H8BrNO3
